US07759385B2
2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[3-(1H-indol-3-yl)-piperidine-1-yl]-ethanone (316 mg, 0.716 mmole) was dissolved in ethyl methyl ketone (4 ml) and chlorotrimethylsilane (0.14 ml, 1.1 mmole) was added. After 1.5 hours the 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[3-(1H-indol-3-yl)-piperidine-1-yl]-ethanone hydrochloride was obtained as a diastereoisomer mixture in the form of a colourless compound with an m.p. of 177°-180° C. in a yield of 89% (305 mg) (Example 54).

reactant | 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[3-(1H-indol-3-yl)-piperidine-1-yl]-ethanone | 0.716 mmole, 316 mg | CN(C1(CCC(CC1)=CC(=O)N1CC(CCC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H35N3O
reactant | chlorotrimethylsilane | 1.1 mmole, 0.14 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethyl methyl ketone | 4 ml | CC(=O)CC | C4H8O
product | 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[3-(1H-indol-3-yl)-piperidine-1-yl]-ethanone hydrochloride | yield of 89% | Cl.CN(C1(CCC(CC1)=CC(=O)N1CC(CCC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | InChI=1S/C29H35N3O.ClH/c1-31(2)29(24-10-4-3-5-11-24)16-14-22(15-17-29)19-28(33)32-18-8-9-23(21-32)26-20-30-27-13-7-6-12-25(26)27;/h3-7,10-13,19-20,23,30H,8-9,14-18,21H2,1-2H3;1H
